US06048885
Zinc acetate dihydrate (400 mg, 1.8 mmol), ethanolamine (975 mg, 15.9 mmol) and xylene (8 ml) were added to 2-(4-chlorobenzyloxy)-α-methoxyiminophenylacetonitrile (4.00 g, 13.3 mmol), and the mixture was stirred under reflux for 63 hours. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give isomer A (1.31 g, 28.6%, as crystals) and isomer B (0.45 g, 9.8%, as crystals) of 2-(4-chlorobenzyloxy)phenyl 2-oxazolin-2-yl ketone O-methyloxime.

reactant | ethanolamine | 15.9 mmol, 975 mg | C(O)CN | C2H7NO
reactant | xylene | 8 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-(4-chlorobenzyloxy)-α-methoxyiminophenylacetonitrile | 13.3 mmol, 4.00 g | ClC1=CC=C(COC2=C(C=CC=C2)C(C#N)=NOC)C=C1 | C16H13ClN2O2
catalyst | Zinc acetate dihydrate | 1.8 mmol, 400 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 2-(4-chlorobenzyloxy)phenyl 2-oxazolin-2-yl ketone O-methyloxime | 0.45 g, 9.8% | CON=C(C1=C(C=CC=C1)OCC1=CC=C(C=C1)Cl)C=1OCCN1 | C18H17ClN2O3
